US09108969B2
Step A: Preparation of 5-(Chloromethyl)-2-cyclopentylbenzonitrile
2-Cyclopentylbenzonitrile (1.3 g, 7.59 mmol) was transferred into a 2-necked RB flask, fitted with an addition funnel and dry nitrogen inlet. The starting material was stirred and cooled to −22° C. (dry ice/IPA bath). Sulfuric acid (3.25 mL, 61.0 mmol) was added in drops. 1,3,5-Trioxane (0.877 mL, 11.39 mmol) was added in 3 batches (The batches were added fairly quickly, one after another). Almost immediately, chlorosulfonic acid (0.915 mL, 13.67 mmol) was added in drops. Then the reaction mixture (dark brown in color) was allowed to warm up to −7° C. (over approx 15 min). It was stirred at between 6.9° C. and −5° C. for 1.5 h. The reaction was quenched by slowly pouring into ice water. MTBE was added and the mixture was stirred well and filtered through Celite®. The Celite® bed was washed with MTBE and the aqueous acid layer was separated. The acid layer was extracted with MTBE. The combined MTBE layer was washed with water followed by saturated NaHCO3 solution. The organic layer was washed with water until washings were neutral to pH paper. The organic layer was dried over anhydrous Na2SO4 and filtered. The solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound.

reactant | 2-Cyclopentylbenzonitrile | 7.59 mmol, 1.3 g | C1(CCCC1)C1=C(C#N)C=CC=C1 | C12H13N
reactant | dry ice IPA | C(=O)=O.CC(C)O
reactant | Sulfuric acid | 61.0 mmol, 3.25 mL | S(O)(O)(=O)=O | H2O4S
reactant | 1,3,5-Trioxane | 11.39 mmol, 0.877 mL | O1COCOC1 | C3H6O3
reactant | chlorosulfonic acid | 13.67 mmol, 0.915 mL | ClS(=O)(=O)O | ClHO3S
product | 5-(Chloromethyl)-2-cyclopentylbenzonitrile | ClCC=1C=CC(=C(C#N)C1)C1CCCC1 | C13H14ClN
